2136-02-12 09:05:00 Physician Attending Progress Note
Chief Complaint: shortness of breath
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   31M with h/o biliary atresia s/p liver tx at 5yo, c/b liver cirrhosis
   as well as h/o ESRD on HD, presented with several days of shortness of
   breath. See admit not for details. In the ED noted to be tachypneic,
   and given fluids for tachycardia. Treated for hypoglycemia.
   24 Hour Events:
   -
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   tacro, vanco, flagyl iv, carafate, pantopr, reglan, lactulose, keppra,
   dextrose,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Nutritional Support: No(t) NPO
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2136-2-12**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 112 (109 - 117) bpm
   BP: 112/65(75) {94/48(59) - 139/85(96)} mmHg
   RR: 20 (20 - 27) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             60 mL
   PO:
             TF:
   IVF:
   60 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     60 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube, No(t)
   OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), [**1-28**] usb
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: left side)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x2 (not date), Movement: Not assessed, Tone:
   Not assessed, asterixis
   Labs / Radiology
   13.6 g/dL
   221 K/uL
   55 mg/dL
   5.5 mg/dL
   23 mEq/L
   4.0 mEq/L
   43 mg/dL
   96 mEq/L
   133 mEq/L
   43.5 %
   21.7 K/uL
        [image002.jpg]
                             [**2136-2-12**]  02:50 AM
   WBC
   21.7
   Hct
   43.5
   Plt
   221
   Cr
   5.5
   TropT
   0.06
   Glucose
   55
   Other labs: PT / PTT / INR:21.7/53.5/2.0, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:19/48, Alk Phos / T Bili:311/2.4,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:512 mg/dL, Lactic Acid:2.8 mmol/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:7.5 mg/dL
   Imaging: ct abd: large left pleural eff with lll and lingula collapse.
   apparent wall thickening
   of descending colon and sigmoid colon and rectum may be [**12-27**]
   undersdistention
   or early colitis. ? urinary bladder wall enhabncement and ? left renal
   focal
   enhancement defect, can't entirely r/o pyelo/cysttis. pl correlate with
   UA.
   ct head: IMPRESSION: No acute intracranial process. Consider MRI given
   the patient's
   history of prior infarcts if clinically warranted.
   Microbiology: ngtd
   Assessment and Plan
   31M with biliary atresia who underwent liver transplantation at the age
   of 5 on tacro, ESRD on HD through HD tunnel cath, presents with 3 days
   of nonproductive cough, left sided chest pain, and dyspnea, with
   leukocytosis, bandemia, tachycardia, and a large effusion on CT scan.
   Likely sepsis in the setting of pneumonia with a large effusion.
   Etiology of effusion is unclear. Likely multifactorial: possible
   parapneumonic, related to pulmonary htn, and certainly related to low
   albumin.
   The source of sepsis is not clear yet either. Lungs are possible given
   the ct findings. Abd ct needs a final read; colitis is possible given
   the ct, as is cystitis. Will follow up cultures. Given his
   immunosuppression he is at risk for a large number of infections. Also
   will consider TTE if no infectious source identified.
   Altered mental status is likely from hepatic encephalopathy in the
   setting of infection. Will continue to treat the underlying cause and
   continue.
   Immediate plan is to perform an us-guided diagnostic and therapeautic
   after FFP and DDAVP while we continuing abx.
   Dialysis pending. Liver team is following
   ICU Care
   Nutrition: renal
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-2-12**] 02:17 AM
   Dialysis Catheter - [**2136-2-12**] 02:22 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2136-02-13 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --removed 1 L with [**Female First Name (un) **], serosanguinous fluid. pH 7.13
   --renal suggested HD tomorrow
   --DC'd tacro as level 10 (he got dose at 8am today)--spoke with
   hepatology fellow about this
   --2/4 bottles GPCs in clusters--already on Vanco
   --CT Chest "Multifocal areas of nodular opacification involving the
   right upper and lower lobes concerning for infection".
   --Thoracic surgery consulted for possible chest tube vs VATS with
   decortication--awaiting recs
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2136-2-13**] 12:04 AM
   Piperacillin - [**2136-2-13**] 12:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-12**] 08:00 AM
   Dextrose 50% - [**2136-2-12**] 09:07 AM
   Morphine Sulfate - [**2136-2-12**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-13**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.3
C (97.4
   HR: 124 (112 - 125) bpm
   BP: 121/75(85) {88/56(67) - 143/89(94)} mmHg
   RR: 25 (18 - 29) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,046 mL
                                                                    815 mL
   PO:
             480 mL
   TF:
   IVF:
                                                                  1,382 mL
                                                                    335 mL
   Blood products:
                                                                    589 mL
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,046 mL
                                                                    815 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 91%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   11.4 g/dL
   54 mg/dL
   7.1 mg/dL
   24 mEq/L
   4.2 mEq/L
   55 mg/dL
   96 mEq/L
   134 mEq/L
   35.9 %
   19.9 K/uL
        [image002.jpg]
                             [**2136-2-12**]  02:50 AM
                             [**2136-2-13**]  03:09 AM
   WBC
   21.7
   19.9
   Hct
   43.5
   35.9
   Plt
   221
   246
   Cr
   5.5
   7.1
   TropT
   0.06
   Glucose
   55
   54
   Other labs: PT / PTT / INR:21.3/57.3/2.0, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:18/45, Alk Phos / T Bili:260/2.8,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:512 mg/dL, Lactic Acid:2.8 mmol/L, LDH:308 IU/L, Ca++:8.1
   mg/dL, Mg++:2.2 mg/dL, PO4:8.2 mg/dL
   Imaging: CT ABD:
   1. Large left pleural effusion which is incompletely imaged with
   complete
   collapse of the left lower lobe and visualized lingula. Right lower
   lobe
   probable early pneumonia and/or fluid overload.
   2. Apparent wall thickening of collapsed descending colon, sigmoid and
   rectum
   may represent mild colitis; however, this may also be secondary to
   underdistension.
   3. Interval decrease in ascites. Persistent body wall and mesenteric
   edema,
   likely secondary to underlying liver disease.
   4. Cirrhosis with stigmata of portal hypertension.
   5. L5 spondylolysis.
   Microbiology: [**2-11**] BC: GPCs
   Assessment and Plan
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD on HD
   presents w/ one week of left chest pain, cough, and generalized
   malaise
   .
   # Sepsis: Likely related to GPC bacteremia and pneumonia. Leukocytosis
   persists. Remains tachycardic. BP stable
   - follow up blood cx speciation
   -sputum sample
   -straight cath and send urine
   -cont vanc/zosyn
   -dc metronidazole
   .
   # Abd Pain:  Must consider RUQ pathology, SBP, constipation (given sig
   stool)
   -RUQ ultrasound with dopplers
   -will consider diagnostic para
   -increase lactulose dose to 45ml TID, and lactulose enema
   .
   # Left Pleural Effusion - Exudative complex parapneumonic effusion.
   -f/u CT chest (assessing for trapped lung)
   -thoracics consulted re: need for chest tube
   -f/u pleural fluid cx
   -cont O2 via NC
   .
   # ? Bowel Wall Thickening: Possible mild colitis. No stool output.
   -obtain C diff, stool culture as well as CMV VL
   -DC flagyl for now
   .
   # Tachycardia: Likely related to PNA and pleural effusion. Currently 1L
   positive.
   -minimize fluid removal
   -cont to monitor
   .
   # End -stage Cirrhosis of transplanted liver: Remains encephalopathic
   with ascites and asterixis.
   -holding tacro today as level yesterday was elevated
   -increase lactulose to 45mL TID
   -cont rifaximin
   -f/u liver consult team recs
   -hypoglycemia possibly related to advanced liver disease- qid finger
   sticks
   .
   # Hct Drop: No overt bleeding. Positive this is dilutional.
   -guiac stools
   -add hemolysis labs
   .
   # ESRD: Likely HD today. Spoke with renal team about minimizing UF
   given sepsis
   .
    # ? left renal/bladder enhancement on CT ab: Final read did not
   appreciate this finding
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-2-12**] 02:17 AM
   Dialysis Catheter - [**2136-2-12**] 02:22 AM
   20 Gauge - [**2136-2-12**] 12:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: ICU for now
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, brought to ICU for mental status change, chest pain, and
   cough.  Found to have left sided pleural effusion, multi-focal
   pneumonia, GPC bacteremia, and worsened abdominal pain.  Thoracentesis
   yesterday with 1 liter of fluid removed that was exudative (glucose 13)
   and culture growing staph aureus.  Treated with vancomycin and zosyn.
   Tm:   97.5   P: 126     BP: 121/75  Oxygen Saturation: 89% NC on 2
   liters
   General: Confused but follows commands; A & O x 2
   Chest: Diminished breath sounds on the left with crackles upper left
   Heart: S1 S2
   Abd: distension, right upper quadrant tenderness
   Ext: mild edema
   Labs: reviewed and as above
 WBC down from 21 to 19
   CXR: Loculated left sided effusion with infiltrate
   ACT: cirrhotic liver, decreased ascites compared to prior
   Assessment:
   1)      Pneumonia with parapneumonic effusion
   2)      Bacteremia, GPC
   3)      S/P liver trasplant
   4)      Anemia
   5)      Encephalopathy
   Plan:
   1)      Continue Vanc/Zosyn
   2)      Chest tube
   3)      ECHO to rule out vegetations
   4)      Discuss with Nephrology about removing access as possible
   source -> explore his vascular access history to determine pro/con of
   treating through versus removal
   5)      Follow serial hematocrits
   6)      Lactulose/rifamixin
   Time Spent: 30 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2136-2-13**] 03:24 PM ------

2136-02-14 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Bacteremia/Chest pain
   24 Hour Events:
 URINE CULTURE - At [**2136-2-13**] 01:36 PM
   Straight cath 225 cc  urine sent
 STOOL CULTURE - At [**2136-2-13**] 02:38 PM
 ULTRASOUND - At [**2136-2-13**] 02:42 PM
 DRAIN REMOVED - At [**2136-2-13**] 04:02 PM
   RSC permacath line removed by [**Doctor First Name 91**]
 CHEST TUBE PLACED - At [**2136-2-13**] 05:30 PM
 DIALYSIS CATHETER - STOP [**2136-2-13**] 07:11 PM
 INVASIVE VENTILATION - START [**2136-2-13**] 07:40 PM
   -- pleural fluid and blood cultures from admission grew MSSA
   -- underwent HD in am on [**2136-2-13**]
   -- HD line removed (received 2 u FFP prior to removal as INR 2.0). Plan
   for temp line on [**2136-2-15**].
   -- Vanco, Flagyl, Zosyn switched to Cipro, Flagyl, Nafcillin in
   response to blood cultures
   -- lactulose po and pr continued as patient encephalopathic
   -- RUQ US performed showed no ascites for diagnostic tap
   -- given albumin 25 g overnight
   -- Echo ordered
   -- hold tacrolimus (until 6 am level is wnl)
   -- hct fell 43--> 30; guaiac negative, hemolysis labs negative
   -- L Chest tube placed with nearly 1 L drainage overnight
   -- Intubated due to respiratory effort after chest tube placement and
   decreased alertness
   History obtained from Medical records
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-13**] 12:02 PM
   Piperacillin - [**2136-2-13**] 02:05 PM
   Metronidazole - [**2136-2-13**] 08:00 PM
   Ciprofloxacin - [**2136-2-13**] 09:00 PM
   Nafcillin - [**2136-2-14**] 04:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2136-2-13**] 06:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-14**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 108 (108 - 133) bpm
   BP: 92/43(59) {90/39(57) - 96/46(62)} mmHg
   RR: 10 (9 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,803 mL
                                                                  2,581 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,531 mL
                                                                  2,371 mL
   Blood products:
                                                                    582 mL
   Total out:
                                                                    225 mL
                                                                      0 mL
   Urine:
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,578 mL
                                                                  2,581 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 98%
   ABG: 7.41/48/123/28/5
   Ve: 7.4 L/min
   PaO2 / FiO2: 246
   Physical Examination
   General: no acute distress, intubated,
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP 10cm, no LAD
   Lungs: bronchial breath sounds throughout on the L side, clear on the
   Right
   CV: Regular rate and rhythm, normal S1 + S2, 3/6 SEM at the USB
   Abdomen: soft, non-tender, moderatley distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, minimal edema bilaterally
   Neuro: moves all four extremities
   Labs / Radiology
   190 K/uL
   9.6 g/dL
   143 mg/dL
   4.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   24 mg/dL
   103 mEq/L
   139 mEq/L
   30.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2136-2-12**]  02:50 AM
                             [**2136-2-13**]  03:09 AM
                             [**2136-2-13**]  05:00 PM
                             [**2136-2-13**]  07:24 PM
                             [**2136-2-14**]  04:55 AM
                             [**2136-2-14**]  05:16 AM
   WBC
   21.7
   19.9
   13.2
   11.6
   Hct
   43.5
   35.9
   33.1
   30.6
   Plt
   221
   246
   217
   190
   Cr
   5.5
   7.1
   3.4
   4.0
   TropT
   0.06
   TCO2
   33
   31
   Glucose
   55
   54
   69
   143
   Other labs: PT / PTT / INR:23.9/57.3/2.3, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:13/42, Alk Phos / T Bili:189/4.0,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:512 mg/dL, Lactic Acid:2.6 mmol/L, Albumin:1.5 g/dL,
   LDH:308 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 PLEURAL EFFUSION, CHRONIC
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 CIRRHOSIS OF LIVER, OTHER
 COAGULOPATHY
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD on HD
   presents w/ one week of left chest pain, cough, and generalized
   malaise
   .
   # Sepsis: Likely related to MSSA bacteremia and pneumonia. Leukocytosis
   improving (21
 11.6). Tachycardia has improved with volume
   resuscitation and sedation. BP decreased on sedation but remains
   stable.
   - follow up all cultures
   -.continue nafcillin for MSSA bacteremia
   - continue empiric cipro/flagyl for possible GI source of infection
   given symptoms on presentation of abd pain
   - continue to trend lactate (3.3
 2.3)
   .
   # Abd Pain:  Likely due to constipation in setting of receiving high
   doses of lactulose without bowel movements.  Pain resolved with bowel
   movements yesterday.  No apparent ascites on prelim RUQ U/S.  LFTs near
   baseline.
   - follow up final read RUQ ultrasound with dopplers
   -increase lactulose dose to 45ml TID, and lactulose enema
   - continue rifaxamin
   .
   # Left Pleural Effusion - Exudative complex parapneumonic effusion.
   Fluid positive for MSSA.  S/p chest tube placement by IP on [**2136-2-13**].
   .
   # ? Bowel Wall Thickening: Possible mild colitis vs. underdistension.
   Patient increased bowel movements yesterday with increased lactulose.
   -obtain C diff, stool culture as well as CMV VL
   -will d/c flagyl pending negative C. diff and continued benign
   abdominal exam
   .
   # Tachycardia: Likely related to PNA and pleural effusion. Improved
   with chest tube placement and IV fluid boluses.
   -cont to monitor on telemetry
   - IV fluid boluses as needed to maintain blood pressure and control
   heart rate
   .
   # End -stage Cirrhosis of transplanted liver: Remains encephalopathic
   with ascites and asterixis.
   -holding tacro today as level yesterday was elevated
   -increase lactulose to 45mL TID
   -cont rifaximin
   -f/u liver consult team recs
   - continue close monitoring of glucose as patient persistently
   hypoglycemic, fluids D5NS for now to maintain glu > 100
   .
   # Hct Drop: No overt bleeding. Positive this is dilutional.  Guaiac
   negative.  Haptoglobin wnl abd LDH trending down unlikely this is due
   to hemolysis.
   - continue to guaiac stools
   - continue to trend
   .
   # ESRD: Last HD [**2136-2-13**].  HD line removal on [**2136-2-13**] due to MSSA
   bacteremia.  Plan to place temporary line on [**2136-2-15**] after line holiday
   for next HD.
   - follow up renal recs
   .
   PPX:
   CODE: FULL
   DISPO: ICU
   ------ Protected Section ------
   I have seen and examined the patient with resident and agree with the
   assessment and plan with the following emphasis/modifications:
   Overnight, had HD line removed, had left-sided chest tube place,
   developed respiratory distress and was intubated.
   T 37.5 P 105  BP 92/47  R 16  Sat: 95% on mechanical ventilation with
   Fio2 of 0.4/PEEP 5
   Gen: intubated, sedated
   Chest: Mild wheeze bilaterally
   Heart: S1 S2 reg
   Abd: soft NTND
   Ext: warm, perfused
   Labs: Lactate 3.2 -> 2.6
   Assessment:
   1) Pneumonia with parapneumonic effusion
   2) Respiratory Failure
   3) Encephalopathy
   4) Sepsis/septic shock
 Staph Aureus
   5) ESRD
   6) S/P liver failure with
   7) Nutrition
   8) History of Seizure disorder
   Plan:
   1) Continue antibiotic regimen
 ID consult
   2) Will consider head CT scan/MRI to rule out any cerebral staph mets
   or abscess if encephalopathy does not improve in next 24 hours
   3) TTE/TEE to rule out endocarditis
   4) Albumin 25 grams
   5) Feeding through NGT/thiamine/multi-vitamins
   6) Lactulose
   7) Vitamin K
   8) Continue current ventilator settings, albuterol/atrovent
   9) Liver and transplant surgery following
   Time Spent: 45 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2136-2-14**] 10:11 ------

2136-02-15 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2136-2-14**] 11:55 AM
   -dobhoff placed post pyloric
   -tacrolimus held for level of 8, repeat for [**2-15**]
   -albumin standing ordered, BPs improved with this and weaning propofol
   -Lactulose changed to PR per liver team
   -PICC line ordered, not done
   -CT torso and head ordered and performed
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-13**] 12:02 PM
   Piperacillin - [**2136-2-13**] 02:05 PM
   Metronidazole - [**2136-2-14**] 06:46 PM
   Ciprofloxacin - [**2136-2-14**] 08:00 PM
   Nafcillin - [**2136-2-15**] 04:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-15**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.7
C (96.2
   HR: 107 (96 - 126) bpm
   BP: 98/51(66) {82/40(55) - 122/69(85)} mmHg
   RR: 18 (11 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    Bladder pressure: 19 (17 - 19) mmHg
   Total In:
                                                                  5,509 mL
                                                                    417 mL
   PO:
   TF:
                                                                     46 mL
   IVF:
                                                                  3,799 mL
                                                                    221 mL
   [**Year (2 digits) **] products:
                                                                    100 mL
   Total out:
                                                                  1,750 mL
                                                                    500 mL
   Urine:
   NG:
   Stool:
                                                                  1,100 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                  3,759 mL
                                                                    -83 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 496 (0 - 496) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 39.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.40/46/104/27/3
   Ve: 6.5 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General: no acute distress, intubated,
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Lungs: chest tube on L, crepitus on L chest wall, lungs clear
   anteriorly
   CV: Regular rate and rhythm, normal S1 + S2, 3/6 SEM at the USB
   Abdomen: soft, non-tender, moderatley distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, minimal edema bilaterally
   Neuro: moves all four extremities
   Labs / Radiology
   182 K/uL
   9.5 g/dL
   78 mg/dL
   5.1 mg/dL
   27 mEq/L
   3.3 mEq/L
   29 mg/dL
   105 mEq/L
   142 mEq/L
   30.3 %
   8.4 K/uL
        [image002.jpg]
                             [**2136-2-12**]  02:50 AM
                             [**2136-2-13**]  03:09 AM
                             [**2136-2-13**]  05:00 PM
                             [**2136-2-13**]  07:24 PM
                             [**2136-2-14**]  04:55 AM
                             [**2136-2-14**]  05:16 AM
                             [**2136-2-14**]  02:41 PM
                             [**2136-2-14**]  07:33 PM
                             [**2136-2-15**]  04:31 AM
                             [**2136-2-15**]  04:46 AM
   WBC
   21.7
   19.9
   13.2
   11.6
   8.4
   Hct
   43.5
   35.9
   33.1
   30.6
   31.8
   30.3
   Plt
   221
   246
   217
   190
   182
   Cr
   5.5
   7.1
   3.4
   4.0
   5.1
   TropT
   0.06
   TCO2
   33
   31
   31
   30
   Glucose
   55
   54
   69
   143
   78
   Other labs: PT / PTT / INR:24.8/57.1/2.4, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:14/48, Alk Phos / T Bili:174/6.5,
   Differential-Neuts:84.0 %, Band:3.0 %, Lymph:8.0 %, Mono:2.0 %, Eos:0.0
   %, Fibrinogen:512 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:1.4 g/dL,
   LDH:308 IU/L, Ca++:7.1 mg/dL, Mg++:2.2 mg/dL, PO4:5.7 mg/dL
   Imaging: ct torso (prelim)
   Chest: Right IJ non-occlusive thrombus at site of line removal. Left
   lower
   lobe/lingula collapse, with large left hydropneumothorax, partially
   loculated.
   Chest tube makes abrupt superior turn with mild kinking at this site.
   Likely
   continued fluid overload. Right upper/lower lung infectious airspace
   opacities. Increased pericardial effusion.
   Abd/Pelvis: No evidence of bowel obstruction, with only minimally
   dilated
   proximal small bowel. Relatively fluid-filled colon, could be seen with
   colitis. No change in small degree ascites, cirrhosis, splenomegaly.
   Likely
   vicarious excretion of IV contrast from hepaticojejunostomy site. [**Doctor Last Name 1699**]
   8p
   [**2136-2-14**].
   ct head w/o contrast [**2-14**] (prelim)
   No e/o acute process or change since 3 days ago.
   Microbiology: [**Month/Year (2) **] cx [**2-11**] MSSA, Pleural fluid coag + staph
   [**Month/Year (2) **] cx [**2-12**], [**2-13**], [**2-14**] no growth
   [**2-13**] catheter tip pending
   [**2-13**] c diff negative
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 PLEURAL EFFUSION, CHRONIC
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 CIRRHOSIS OF LIVER, OTHER
 COAGULOPATHY
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD on HD
   presents w/ one week of left chest pain, cough, and generalized
   malaise
   # Sepsis: MSSA bacteremia and infected pleural effusion.  Per thoracic
   team bronch may be helpful.  Continue to f/u surveillance cultures.  At
   this point no + cultures since [**2-11**] in the [**Last Name (LF) 1056**], [**First Name3 (LF) **] plan on replacing
   HD catheter today vs. Thursday
   -continue nafcillin
   -continue cipro / flagyl for ? colitis on CT, f/u final read of repeat
   CT scan, c diff negative
   -consult ID
   -echo w/o vegetation, may need TEE
   # Respiratory: re-attempt PSV today
   # End -stage Cirrhosis of transplanted liver: Remains encephalopathic
   with ascites and asterixis.
   -f/u repeat tacrolimus level, goal close to 5
   -lactulose pr per liver team
   -cont rifaximin
   -f/u liver consult team recs
   -q6h finger sticks
   # Anemia: currently stable at 30, trend daily, guaiac stools.
   # ESRD: Last HD [**2136-2-13**].  HD line removal on [**2136-2-13**] due to MSSA
   bacteremia.  Plan to place temporary line on [**2136-2-15**] or [**2136-2-16**].
   -f/u renal recs
   PPX: coagulopathy, pneumoboots, PPI
   NUTRITION: TUBE FEEDS STARTED
   CODE: FULL
   DISPO: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 ([**11-26**]) - [**2136-2-15**] 02:52 AM 10 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-2-12**] 12:49 PM
   18 Gauge - [**2136-2-13**] 08:00 PM
   22 Gauge - [**2136-2-13**] 08:00 PM
   Arterial Line - [**2136-2-14**] 02:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, had some episodes of low [**Year (4 digits) 1056**] pressure but otherwise no new
   problems
   Tm:   96.7   P: 120     BP: 90s/60s  Oxygen Saturation: 95% Fio2
   0.4/PEEP 5
   General: Confused but follows commands; A & O x 2
   Chest: Diminished breath sounds on the left with crackles upper left
   Heart: S1 S2
   Abd: distension, right upper quadrant tenderness
   Ext: mild edema
   Labs: reviewed and as above
   Assessment:
   1)      Pneumonia with parapneumonic effusion
   2)      Respiratory Failure
   3)      Sepsis
 staph (MSSA)
   4)      S/P liver trasplant
   5)      Anemia - stable
   6)      Encephalopathy
   Plan:
   1)      Continue Vanc/Zosyn
   2)      Bronchoscopy
   3)      SBT
 failed after several hours -> will plan for tomorrow
   after CVVH
   4)      TEE to rule out vegetations
   5)      Plan replace hemodialysis cath tomorrow
   6)      Follow serial hematocrits
   7)      Lactulose/rifamixin
   Time Spent: 30 minutes (patient is critically ill)
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2136-2-15**] 06:30 PM ------

2136-02-16 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --tired out on PSV and restarted AC
   --trace positive guiac
   --tacro 6.4--liver wants us to hold today's dose and recheck level
   tomorrow
   --on schedule for TEE in am
   --ID wanted us to resend b-glucan
   --bronched, mod amt mucous
   --remained tachy to 120's and hypotensive w/ systolics in 90's. Checked
   pulsus <8.
   --ECHO to assess pericardial effusion did not show tamponade. Effusion
   is moderate.
   --cortisol 3.5
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-13**] 12:02 PM
   Piperacillin - [**2136-2-13**] 02:05 PM
   Ciprofloxacin - [**2136-2-14**] 08:00 PM
   Metronidazole - [**2136-2-15**] 05:22 PM
   Nafcillin - [**2136-2-16**] 12:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-15**] 08:52 AM
   Dextrose 50% - [**2136-2-15**] 01:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-16**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 116 (114 - 132) bpm
   BP: 104/54(71) {89/42(58) - 116/71(81)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
    Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  1,586 mL
                                                                    329 mL
   PO:
   TF:
                                                                    250 mL
                                                                      4 mL
   IVF:
                                                                    781 mL
                                                                    135 mL
   Blood products:
                                                                    200 mL
                                                                    100 mL
   Total out:
                                                                  1,330 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
                                                                  1,150 mL
   Drains:
   Balance:
                                                                    256 mL
                                                                    329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 511 (405 - 511) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.36/50/141/25/2
   Ve: 9.2 L/min
   PaO2 / FiO2: 353
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   142 K/uL
   8.9 g/dL
   76 mg/dL
   6.0 mg/dL
   25 mEq/L
   3.9 mEq/L
   35 mg/dL
   101 mEq/L
   139 mEq/L
   27.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2136-2-14**]  04:55 AM
                             [**2136-2-14**]  05:16 AM
                             [**2136-2-14**]  02:41 PM
                             [**2136-2-14**]  07:33 PM
                             [**2136-2-15**]  04:31 AM
                             [**2136-2-15**]  04:46 AM
                             [**2136-2-15**]  11:15 AM
                             [**2136-2-15**]  05:37 PM
                             [**2136-2-16**]  04:54 AM
                             [**2136-2-16**]  05:06 AM
   WBC
   11.6
   8.4
   10.5
   Hct
   30.6
   31.8
   30.3
   27.5
   Plt
   190
   182
   142
   Cr
   4.0
   5.1
   6.0
   TCO2
   31
   31
   30
   29
   28
   29
   Glucose
   143
   78
   76
   Other labs: PT / PTT / INR:25.6/68.0/2.5, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:[**10/2081**], Alk Phos / T Bili:147/8.4,
   Differential-Neuts:89.5 %, Band:3.0 %, Lymph:5.0 %, Mono:3.1 %, Eos:1.8
   %, Fibrinogen:512 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.3 g/dL,
   LDH:242 IU/L, Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 PLEURAL EFFUSION, CHRONIC
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 CIRRHOSIS OF LIVER, OTHER
 COAGULOPATHY
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD on HD
   presents w/ one week of left chest pain, cough, and generalized
   malaise
   .
   # Sepsis: Remains tachycardic and borderline hypotensive at times. WBC
   ct normal and afebrile. Blood cxs remain neg since [**2-11**]. Cath tip pos
   for MSSA [**2-13**]
   -continue nafcillin
   -continue flagyl for ? colitis on CT until a 2nd CDiff negative
   -TEE today
   -f/u B glucan
   -f/u cxs
   - ID recs
   .
    # Empeyema: Plan to cont drainage with CT.
   -f/u thoracics recs
   .
   # MSSA Bacteremia: Blod cxs neg since [**2-11**].
   -cont Nafcillin
   .
   # Respiratory: PSV trial today
   .
   # End -stage Cirrhosis of transplanted liver: TBili trending up.
   Worsening coagulopathy. Remains encephalopathic with ascites and
   asterixis.
   -f/u repeat tacrolimus level, goal close to 5
   -lactulose pr per liver team
   -cont rifaximin
   -f/u liver consult team recs
   -q6h finger sticks given hypogycemia
   .
   # Anemia: Hct trending down, now 27 from 30.
   -guiac stools
   -check this PM
   .
   # ESRD: Plan to place temporary line [**2136-2-16**].
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2136-2-12**] 12:49 PM
   18 Gauge - [**2136-2-13**] 08:00 PM
   22 Gauge - [**2136-2-13**] 08:00 PM
   Arterial Line - [**2136-2-14**] 02:00 AM
   Midline - [**2136-2-15**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-02-18 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -C diff negative x 2, flagyl discontinued
   -lactulose 30ml po bid started
   -tacrolimus level 4.5, not redosed given steroids
   -hydrocort weaned to 25mg IV q6hrs
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2136-2-18**] 04:00 AM
   Metronidazole - [**2136-2-18**] 06:05 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-17**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-18**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 92 (83 - 122) bpm
   BP: 151/91(115) {110/65(80) - 151/95(115)} mmHg
   RR: 24 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 64.2 kg (admission): 59.4 kg
   Height: 64 Inch
    Bladder pressure: 19 (19 - 19) mmHg
   Total In:
                                                                  3,540 mL
                                                                  1,157 mL
   PO:
   TF:
                                                                    413 mL
                                                                    160 mL
   IVF:
                                                                  2,699 mL
                                                                    937 mL
   Blood products:
                                                                     38 mL
   Total out:
                                                                  8,080 mL
                                                                  3,162 mL
   Urine:
                                                                    156 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,540 mL
                                                                 -2,005 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 426 (392 - 426) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.33/43/135/22/-3
   Ve: 9.9 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   120 K/uL
   8.9 g/dL
   138 mg/dL
   2.6 mg/dL
   22 mEq/L
   4.5 mEq/L
   26 mg/dL
   101 mEq/L
   135 mEq/L
   27.1 %
   12.7 K/uL
        [image002.jpg]
                             [**2136-2-17**]  06:16 AM
                             [**2136-2-17**]  06:22 AM
                             [**2136-2-17**]  09:40 AM
                             [**2136-2-17**]  11:53 AM
                             [**2136-2-17**]  05:24 PM
                             [**2136-2-17**]  06:13 PM
                             [**2136-2-18**]  12:01 AM
                             [**2136-2-18**]  12:06 AM
                             [**2136-2-18**]  05:28 AM
                             [**2136-2-18**]  05:56 AM
   WBC
   13.1
   12.7
   Hct
   27.4
   27.4
   27.1
   Plt
   124
   120
   Cr
   5.0
   4.2
   3.6
   2.6
   2.6
   TCO2
   26
   24
   23
   21
   24
   Glucose
   132
   138
   111
   138
   138
   Other labs: PT / PTT / INR:18.7/44.5/1.7, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:19/77, Alk Phos / T Bili:156/12.7,
   Differential-Neuts:89.5 %, Band:3.0 %, Lymph:5.0 %, Mono:3.1 %, Eos:1.8
   %, Fibrinogen:512 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.3 g/dL,
   LDH:242 IU/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 PLEURAL EFFUSION, CHRONIC
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 CIRRHOSIS OF LIVER, OTHER
 COAGULOPATHY
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD on HD
   presents w/ one week of left chest pain, cough, and generalized
   malaise
   # Sepsis: Remains tachycardic and borderline hypotensive at times. WBC
   ct normal and afebrile. Blood cxs remain neg since [**2-11**]. Cath tip pos
   for MSSA [**2-13**]
   -continue nafcillin
   -continue flagyl for ? colitis on CT until a 2nd CDiff negative
   -f/u B glucan
   -f/u cxs
   - ID recs
   - continue  stress dose steroids.
    # Empyema: Plan to cont drainage with CT.
   -f/u thoracics recs
   # MSSA Bacteremia: Blod cxs neg since [**2-11**].
   - TEE and TTE negative for vegetations
   -cont Nafcillin at 2 g IV q4h
   # Respiratory: PSV trial today
   # End -stage Cirrhosis of transplanted liver: TBili trending up.
   Worsening coagulopathy. Remains encephalopathic with ascites and
   asterixis.
   -restart tacrolimus at 0.5 mg daily, follow up am level and adjust
   accordingly
   -lactulose pr per liver team
   -cont rifaximin
   -f/u liver consult team recs
   -q6h finger sticks given hypogycemia
   # Anemia: Hct trending down, after bleed at cath site patient
   transfused 1 u pRBC and 2 u FFP,  HCT 27.5 after transfusion.
   -guaiac stools
   -remove HD line dressing by 1800
   - continue to monitor daily hct (transfuse Hct < 25)
   # ESRD: Temporary line  placed [**2136-2-16**].  Tolerated CVVH well overnight.
   PPX: pneumoboots, chlorhexadine mouth wash, HOB > 30 degrees, PPI
   TUBES/LINES: Chest tube, foley catheter, rectal tube, temp HD line,
   a-line, intubated
   CODE: FULL
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2136-2-17**] 03:45 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-2-13**] 08:00 PM
   22 Gauge - [**2136-2-13**] 08:00 PM
   Arterial Line - [**2136-2-14**] 02:00 AM
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: Boots(coagulopathy)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2136-02-20 06:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Cardiac tamponade
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2136-2-19**] 01:30 PM
   --patient opening eyes to verbal stimuli, not following commands
   --CT chest performed showed increased pericardial effusion and
   increased pleural opacities
   --stat echo suggested tamponade physiology
   --cardiology unable to find window for possible pericardial centesis as
   fluid is largely posterior
   --thoracic surgery consulted; placed him on schedule as an add-on for
   pericardial window for Monday
   -- patient given 1-2 L IVF to maintain blood pressures
   -- Father called and notified of critical condition; will be in Monday
   morning
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2136-2-18**] 06:05 AM
   Nafcillin - [**2136-2-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-19**] 08:00 AM
   Fentanyl - [**2136-2-20**] 03:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-20**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36
C (96.8
   HR: 115 (111 - 123) bpm
   BP: 103/62(75) {88/55(67) - 130/125(347)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63 kg (admission): 59.4 kg
   Height: 64 Inch
    CVP: 15 (12 - 15)mmHg
   CO/CI (Fick): (11.6 L/min) / (7.1 L/min/m2)
   Mixed Venous O2% Sat: 81 - 82
   Total In:
                                                                  4,419 mL
                                                                    612 mL
   PO:
   TF:
                                                                    767 mL
                                                                    288 mL
   IVF:
                                                                  3,272 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  2,869 mL
                                                                     90 mL
   Urine:
                                                                      9 mL
                                                                     15 mL
   NG:
                                                                    300 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,550 mL
                                                                    522 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (469 - 591) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///18/
   Ve: 8.4 L/min
   Physical Examination
   Gen: intubated, sedated, opens eyes to verbal stimuli
   Lungs:CTAB anteriorly
   Heart: s1/s2 present, loud rub with thrill
   Abd:+BS, soft
   Ext:no LE edema
   Labs / Radiology
   [**2136-2-19**] Chest CT:
   1. Interval increase in large pericardial effusion. Echocardiogram is
   strongly recommended to evaluate for cardiac compromise.
   2. Interval increase in multifocal patchy opacities, some of which may
   have
   early cavitation when compared to prior exam. This is concerning for
   interval
   worsening of infectious process.
   3. Interval increase in right pleural effusion. Left lower lobe
   collapse and
   small left pleural effusion with air within the pleural space and
   air-fluid
   level is unchanged. Left-sided chest tube is unchanged.
   4. Splenomegaly and evidence of cirrhosis, partially imaged, unchanged.
   5. Contrast within the bilateral kidney parenchyma is concerning for
   retained
   contrast due to renal failure.
   6. Mediastinal lymphadenopathy, likely reactive.
   [**2136-2-19**] ECHO: (prelim)
   The left atrium is normal in size. Left ventricular wall thicknesses
   and cavity size are normal. Due to suboptimal technical quality, a
   focal wall motion abnormality cannot be fully excluded. Left
   ventricular systolic function is hyperdynamic (EF>75%). Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets (3) appear structurally normal with good leaflet
   excursion. No aortic regurgitation is seen. The mitral valve leaflets
   are structurally normal. No masses or vegetations are seen on the
   mitral valve, but cannot be fully excluded due to suboptimal image
   quality. Mild to moderate ([**11-26**]+) mitral regurgitation is seen. There is
   a moderate sized pericardial effusion. The pericardium may be
   thickened. There is right ventricular diastolic collapse, consistent
   with impaired fillling/tamponade physiology.
   108 K/uL
   8.2 g/dL
   146 mg/dL
   3.6 mg/dL
   18 mEq/L
   4.1 mEq/L
   50 mg/dL
   105 mEq/L
   138 mEq/L
   25.9 %
   15.4 K/uL
        [image002.jpg]
                             [**2136-2-18**]  05:28 AM
                             [**2136-2-18**]  05:56 AM
                             [**2136-2-18**]  10:11 AM
                             [**2136-2-18**]  10:25 AM
                             [**2136-2-18**]  04:05 PM
                             [**2136-2-18**]  04:13 PM
                             [**2136-2-19**]  04:57 AM
                             [**2136-2-19**]  05:18 AM
                             [**2136-2-19**]  04:59 PM
                             [**2136-2-20**]  04:46 AM
   WBC
   12.7
   12.0
   15.4
   Hct
   27.1
   26.3
   25.0
   25.9
   Plt
   120
   133
   108
   Cr
   2.6
   2.0
   2.4
   3.2
   3.6
   TCO2
   24
   23
   25
   23
   Glucose
   138
   136
   128
   129
   158
   146
   Other labs: PT / PTT / INR:20.6/39.7/1.9, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:28/94, Alk Phos / T Bili:158/14.9,
   Differential-Neuts:89.5 %, Band:3.0 %, Lymph:5.0 %, Mono:3.1 %, Eos:1.8
   %, Fibrinogen:512 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL,
   LDH:354 IU/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PERICARDIAL EFFUSION WITH TAMPONADE
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 PLEURAL EFFUSION, CHRONIC
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 COAGULOPATHY
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD
   admitted w/ MSSA sepsis, respiratory failure, decompensated liver
   disease and found to have empyema and MSSA bacteremia course now
   further complicated by cardiac tamponade.
   .
   # Cardiac Tamponade:
   --stat TTECHO this am, to be reviewed by cards and thoracic surgery
   --plan for either pericardial drain vs window
   .
   # Pneumonia: CT Chest from [**2-19**] showing new cavitary lesion
   -discuss need for broadening abx with ID
   -consider bronch
   -plan to maintain Chest tube in place for now. Discuss further with IP
   today
   .
    ## MSSA Bacteremia- No positive blood cxs since [**2-11**]
   -continue nafcillin
   -discuss need for broadening abx with ID given cavitary lesion
   -f/u cxs
   -cont to taper stress dose steroids, cont [**Hospital1 **] dosing today
   .
   ## Resp failure- extubation limited by poor mental status; likely
   related to worsening encephalopathy in setting of worsening liver
   failure.  Given need for possible procedure will keep intubated.
   --follow mental status,x for ESLD as per below
   --wean sedation to as low as possible
   --comfortable on PSV
   --check daily RISB
   .
   # Coffee Ground OG drainage: Moving bowels. Reduced volume from OG
   tube.  No tube feeds being suctioned
   --cont PPI Q12
   .
   ## ESLD: TBili, LDH, ALt cont to trend up. Worsening liver failure
   likely related to persistent infections.
   -received tacro dose this am
   -cont lactulose and rifamixin
   -treating his MRSA infections
   .
   ##ESRD: CVVH stopped.
   -should get HD today given concern for uremic pericarditis
   - tunnelled line placement postponed
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2136-2-19**] 10:19 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2136-2-14**] 02:00 AM
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  father, [**Name (NI) 8405**] [**Name (NI) 8404**]
   Code status: Full code
   Disposition: ICU

2136-02-20 09:46:00 Physician Attending Progress Note
Chief Complaint:
   HPI: Respiratory Failure, MSSA sepsis
   24 Hour Events:
   Coffee ground emesis from post-pyloric doboff tube and OG tube
   Mental status improving in setting of increased lactulose
   CT chest with increased pericardial effusion, stat TTE with
   physiological tamponade and posterior fluid collection, Thoracic
   surgery planning on pericardial window, overnight maintained MAP > 80
   with IVF boluses
   changed tacro to am dosing
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2136-2-18**] 06:05 AM
   Nafcillin - [**2136-2-20**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-20**] 08:00 AM
   Fentanyl - [**2136-2-20**] 08:00 AM
   Other medications:
   rifaxin
   lidocaine patch
   Calcium
   nafcillin
   keppra
   thiamine
   lactulose
   hydrocortisone
   pantoprazole
   chlorhexadine
   prn fentanyl
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-20**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 111 (111 - 123) bpm
   BP: 114/61(77) {88/55(67) - 130/125(347)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 63 kg (admission): 59.4 kg
   Height: 64 Inch
   CVP: 15 (12 - 15)mmHg
   CO/CI (Fick): (11.6 L/min) / (7.1 L/min/m2)
   Mixed Venous O2% Sat: 81 - 82
   Total In:
                                                                  4,419 mL
                                                                    964 mL
   PO:
   TF:
                                                                    767 mL
                                                                    412 mL
   IVF:
                                                                  3,272 mL
                                                                    402 mL
   Blood products:
   Total out:
                                                                  2,869 mL
                                                                     97 mL
   Urine:
                                                                      9 mL
                                                                     22 mL
   NG:
                                                                    300 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,550 mL
                                                                    867 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (469 - 591) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 8.4 L/min
   Physical Examination
   General:  intubated, sedated. Minimally responsive
   HEENT: PERRL, 5
4mm, ETT in place, + icterus
   CV: S1/ S2 tachy
   CHEST: exp rhonchi
   ABD: soft, nt, nd
   Ext: cool, icteric, muscule wasting
   Cardiovascular: Rub
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   Present), (Right DP pulse: present), (Left DP pulse: present)
   Abdominal: Soft, Bowel sounds present
   Neurologic: Responds to:simple commands: opens eyes but does not
   squeeze hands
   Labs / Radiology
   8.2 g/dL
   108 K/uL
   146 mg/dL
   3.6 mg/dL
   18 mEq/L
   4.1 mEq/L
   50 mg/dL
   105 mEq/L
   138 mEq/L
   25.9 %
   15.4 K/uL
        [image002.jpg]
                             [**2136-2-18**]  05:28 AM
                             [**2136-2-18**]  05:56 AM
                             [**2136-2-18**]  10:11 AM
                             [**2136-2-18**]  10:25 AM
                             [**2136-2-18**]  04:05 PM
                             [**2136-2-18**]  04:13 PM
                             [**2136-2-19**]  04:57 AM
                             [**2136-2-19**]  05:18 AM
                             [**2136-2-19**]  04:59 PM
                             [**2136-2-20**]  04:46 AM
   WBC
   15.4
   12.0
   15.4
   Hct
   25.9
   26.3
   25.0
   25.9
   Plt
   108
   133
   108
   Cr
   2.6
   2.0
   2.4
   3.2
   3.6
   TCO2
   24
   23
   25
   23
   Glucose
   138
   136
   128
   129
   158
   146
   Other labs: PT / PTT / INR:20.6/39.7/1.9, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:28/94, Alk Phos / T Bili:158/14.9,
   Differential-Neuts:89.5 %, Band:3.0 %, Lymph:5.0 %, Mono:3.1 %, Eos:1.8
   %, Fibrinogen:512 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.3 g/dL,
   LDH:354 IU/L, Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: lactate - 1.7
   CVO2 - 81%
   Imaging: CT: increased pericardial effusion, increased opacities
   Assessment and Plan
   31 YO M ESLD/Renal failure awaiting transplant here with MSSA pneumonia
   now with pericardial effusion and worsened liver function.
   1. Tamponade:  Currently hemodynamically stable with IVF support,
   likely [**12-27**] uremia ? staph pericarditis
    - stat TTE to assess possible percutaneous procedure, if fluid remains
   posterior will need pericardial window
    - repleting volume as needed to maintain MAP > 65
   2. Pneumonia:
    - cont nafcillin with dosing per infectious disease service
    - chest tube to remain until abx on board x > 7 days, continues to put
   out 110cc x 24 hours, IP following
    - f/u additional culture data given rising wbc
    - low threshold to broaden abx coverage
   3. Adrenal insufficiency:
    - tapering steroids: 25mg hydrocort [**Hospital1 **] --> 25 mg qday starting [**2-21**]
   4. Respiratory failure: limited by mental status [**12-27**] encephalopathy and
   sedation
    - will continue to attempt to decrease sedation with intermittent
   fentanyl boluses, lactulose for encephalopathy
    - time course limited [**12-27**] multiple interventions
   5. coffee ground emesis: improving, getting PPI
   6. ESLD: Worsenening bilirubin
    - liver/transplant svc following
    - rifaximin
    - lactulose
    - on tacro to maintain level 5, checking trough in am
   7. ESRD: cvvh held with plan to transition to HD
    - will tb with renal regarding RRT
    - will need tunneled catheter
   8. GOC: attempt to arrange family meeting today
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2136-2-19**] 10:19 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2136-2-14**] 02:00 AM
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 55 minutes

2136-02-21 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2136-2-20**] 10:00 AM
 OR SENT - At [**2136-2-20**] 02:00 PM
   for pericardial window placement.
 OR RECEIVED - At [**2136-2-20**] 04:15 PM
   --Went to OR for pericardial window- rec'd 1 bag plts, 2 uFFP, 2u cryo,
   and 15mcg of ddavp
   --After returning became acutely hypoxic to the mid 80s requiring
   increase in FiO2, as crepitus was felt PEEP was dropped to 2, thoracic
   surgery was called and attempted stripping drains with some clot
   removal, repeat CXR with reaccumulation of some pleural fluid, sats
   improved spontaneously, additional blood products given overnight- 1
   bag plts, 3 u FFP, 5mg IV vit K, 3 u PRBC, 15mcg ddavp, patient
   dialyzed.
   --Plan for 3pm family mtg tomorrow with hepatology, transplant, renal
   to discuss patient's current status
   --ID suggested no change in ABX at this time
   --Tacro Level 2.5, spoke with hepatolgogy who suggested: repeat 0.5
   daily
   --dobhoff placed, unable to place post pyloric so wire removed and used
   for meds this a.m. with plan for IR to replace with post pyloric
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2136-2-21**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-20**] 08:37 PM
   Fentanyl - [**2136-2-21**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-21**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 98 (97 - 117) bpm
   BP: 86/43(57) {85/38(55) - 140/83(89)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 59.4 kg
   Height: 64 Inch
    CVP: 18 (15 - 23)mmHg
   Total In:
                                                                  6,833 mL
                                                                  1,243 mL
   PO:
   TF:
                                                                    620 mL
   IVF:
                                                                  2,213 mL
                                                                    311 mL
   Blood products:
                                                                  3,730 mL
                                                                    842 mL
   Total out:
                                                                    130 mL
                                                                    640 mL
   Urine:
                                                                     30 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  6,703 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 500) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.39/49/91/27/3
   Ve: 7.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   130 K/uL
   8.0 g/dL
   83 mg/dL
   2.2 mg/dL
   27 mEq/L
   3.5 mEq/L
   23 mg/dL
   102 mEq/L
   141 mEq/L
   22.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2136-2-19**]  04:57 AM
                             [**2136-2-19**]  05:18 AM
                             [**2136-2-19**]  04:59 PM
                             [**2136-2-20**]  04:46 AM
                             [**2136-2-20**]  06:30 PM
                             [**2136-2-20**]  06:53 PM
                             [**2136-2-20**]  10:16 PM
                             [**2136-2-20**]  10:29 PM
                             [**2136-2-21**]  04:18 AM
                             [**2136-2-21**]  04:47 AM
   WBC
   12.0
   15.4
   13.3
   12.1
   Hct
   26.3
   25.0
   25.9
   19.4
   21.9
   22.7
   Plt
   133
   108
   115
   130
   Cr
   2.4
   3.2
   3.6
   2.2
   TCO2
   23
   26
   33
   31
   Glucose
   129
   158
   146
   83
   Other labs: PT / PTT / INR:16.7/35.0/1.5, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:27/73, Alk Phos / T Bili:128/15.5,
   Differential-Neuts:89.5 %, Band:3.0 %, Lymph:5.0 %, Mono:3.1 %, Eos:1.8
   %, Fibrinogen:308 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.3 g/dL,
   LDH:354 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 PERICARDIAL EFFUSION WITH TAMPONADE
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 PLEURAL EFFUSION, CHRONIC
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 COAGULOPATHY
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD
   admitted w/ MSSA sepsis, respiratory failure, decompensated liver
   disease and found to have empyema and MSSA bacteremia course now
   further complicated by cardiac tamponade.
   # Cardiac Tamponade:
   --stat TTECHO this am, to be reviewed by cards and thoracic surgery
   --plan for either pericardial drain vs window
   # Pneumonia: CT Chest from [**2-19**] showing new cavitary lesion
   -discuss need for broadening abx with ID
   -consider bronch
   -plan to maintain Chest tube in place for now. Discuss further with IP
   today
    ## MSSA Bacteremia- No positive blood cxs since [**2-11**]
   -continue nafcillin
   -discuss need for broadening abx with ID given cavitary lesion
   -f/u cxs
   -cont to taper stress dose steroids, cont [**Hospital1 **] dosing today
   ## Resp failure- extubation limited by poor mental status; likely
   related to worsening encephalopathy in setting of worsening liver
   failure.  Given need for possible procedure will keep intubated.
   --follow mental status,x for ESLD as per below
   --wean sedation to as low as possible
   --comfortable on PSV
   --check daily RISB
   # Coffee Ground OG drainage: Moving bowels. Reduced volume from OG
   tube.  No tube feeds being suctioned
   --cont PPI Q12
   ## ESLD: TBili, LDH, ALt cont to trend up. Worsening liver failure
   likely related to persistent infections.
   -received tacro dose this am
   -cont lactulose and rifamixin
   -treating his MRSA infections
   ##ESRD: CVVH stopped.
   -should get HD today given concern for uremic pericarditis
   - tunnelled line placement postponed
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2136-2-14**] 02:00 AM
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-02-21 09:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MSSA sepsis, Left pleural effusion, pericardial tamponade
   24 Hour Events:
   Pericardial window and drain placed in OR with replacement of chest
   tube
   intraoperatively received 3 u FFP + 1 u platelets
   Post-op had acute hypoxemic event with acute resolution
   CXR with  likely hemothorax, decreased Hct, received 2 u RBC, addl 2 u
   FFP
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2136-2-21**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-20**] 08:37 PM
   Fentanyl - [**2136-2-21**] 06:00 AM
   Other medications:
   rifaximin
   lido patch
   calcium acetate
   albuterol/atrovent
   thiamine
   lactulose
   hydrocortisone
   pantoprazole
   reglan
   chlorhexadine
   keppra
   nafcillin 1g q 4
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-21**] 09:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 99 (97 - 117) bpm
   BP: 86/43 MAP 70-90 mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.8 kg (admission): 59.4 kg
   Height: 64 Inch
   CVP: 18 (15 - 23)mmHg
   Total In:
                                                                  6,833 mL
                                                                  1,383 mL
   PO:
   TF:
                                                                    620 mL
   IVF:
                                                                  2,213 mL
                                                                    322 mL
   Blood products:
                                                                  3,730 mL
                                                                    970 mL
   Total out:
                                                                    130 mL
                                                                    640 mL
   Urine:
                                                                     30 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  6,703 mL
                                                                    743 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 350 (350 - 500) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 94%
   ABG: 7.39/49/91/27/3
   Ve: 7.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Decreased
   Labs / Radiology
   8.0 g/dL
   130 K/uL
   83 mg/dL
   2.2 mg/dL
   27 mEq/L
   3.5 mEq/L
   23 mg/dL
   102 mEq/L
   141 mEq/L
   22.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2136-2-19**]  04:57 AM
                             [**2136-2-19**]  05:18 AM
                             [**2136-2-19**]  04:59 PM
                             [**2136-2-20**]  04:46 AM
                             [**2136-2-20**]  06:30 PM
                             [**2136-2-20**]  06:53 PM
                             [**2136-2-20**]  10:16 PM
                             [**2136-2-20**]  10:29 PM
                             [**2136-2-21**]  04:18 AM
                             [**2136-2-21**]  04:47 AM
   WBC
   12.0
   15.4
   13.3
   12.1
   Hct
   26.3
   25.0
   25.9
   19.4
   21.9
   22.7
   Plt
   133
   108
   115
   130
   Cr
   2.4
   3.2
   3.6
   2.2
   TCO2
   23
   26
   33
   31
   Glucose
   129
   158
   146
   83
   Other labs: PT / PTT / INR:16.7/35.0/1.5, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:27/73, Alk Phos / T Bili:128/15.5,
   Differential-Neuts:89.5 %, Band:3.0 %, Lymph:5.0 %, Mono:3.1 %, Eos:1.8
   %, Fibrinogen:308 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:2.3 g/dL,
   LDH:354 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: Tacro - P
   Blood culture [**2-20**] - pending
   Cdif [**2-20**], [**2-19**] - negative
   Assessment and Plan
   31 yo M ESLD, renal failure [**12-27**] biliary atresia, awaiting transplant,
   here w MSSA pneumonia/bacteremia, now s/p pericardial drain
   1. Tamponade: s/p window/drain placement c/b hemothorax
    - will continue to monitor drain output and hemodynamics
    - q6hr hct and coags
    - t/f hct > 25, INR < 1.5, platelets > 50
    - will touch base with ID regarding transition to cefazolin
   2/ L hemothorax:
    - cont monitor drain output with stripping as needed. [**Month (only) 8**] need repeat
   CT to assess pleural vs parenchymal component once no longer needing
   transfusion
   3. PNA: cont nafcillin vs/ cefazolin
   4. Respiratory failure: limited by pain, mental status clearing
    - wean vent to CPAP/ PSV as tolerated
    - start dilaudid drip/ boluses
   5. ESLD:
    - f/u tacro levels, aim [**2-28**]
   - cont rifaxamine, lactulose
   6. Renal Failure:
    - tolerated HD yesterday with TBB even
    - d/c phoslo
   7. Adrenal insufficiency:
    - 25 mg hydrocort today then d/c, if BSP drops may need this restarted
   as he has minimal adrenal reserve
   8. Goals of care: family meeting today
   9. FEN: Doboff replaced, restart TF
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2136-2-14**] 02:00 AM
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : ICU
   Total time spent:  55 mins

2136-02-22 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --R Hip Pain improved with dilaudid. Repeat Hip film unchanged
   --Had family meeting with father and uncle to update on current status
   --SBPs dropped to 80's around 1630. Bolused 1L. Pressure transiently
   increased and then dropped again. Started Vasopressin, cultured,
   broadened abx to vanc and cefepime. Pressures improved to 100's.
   --restarted low dose dilaudid gtt after fentanyl boluses failed to
   control pain. pain now well controlled. pt alert, answering questions
   appropriately
   --transfusing 1 unit PRBC as Hct drifted to 23
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-21**] 06:00 PM
   Nafcillin - [**2136-2-22**] 04:00 AM
   Cefipime - [**2136-2-22**] 05:46 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Hydromorphone (Dilaudid) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-21**] 08:00 AM
   Fentanyl - [**2136-2-21**] 06:00 PM
   Midazolam (Versed) - [**2136-2-21**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-22**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 102 (93 - 103) bpm
   BP: 106/69(82) {82/38(53) - 118/73(82)} mmHg
   RR: 26 (7 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 68.8 kg (admission): 59.4 kg
   Height: 64 Inch
    CVP: 28 (18 - 28)mmHg
   CO/CI (Fick): (193.3 L/min) / (118.1 L/min/m2)
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  3,635 mL
                                                                    810 mL
   PO:
   TF:
   IVF:
                                                                  2,386 mL
                                                                    255 mL
   Blood products:
                                                                    979 mL
                                                                    375 mL
   Total out:
                                                                    690 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,945 mL
                                                                    810 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 645 (16 - 793) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.30/47/109/27/-3
   Ve: 5.7 L/min
   PaO2 / FiO2: 273
   Physical Examination
   Gen: intubated, sedated, opens eyes to verbal stimuli
   Lungs: ronchorus breath sounds L > R
   Heart: s1/s2 present, diminished rub
   Abd: moderately distended abd
   Ext:no LE edema
   Labs / Radiology
   127 K/uL
   9.2 g/dL
   127 mg/dL
   3.8 mg/dL
   27 mEq/L
   4.4 mEq/L
   31 mg/dL
   101 mEq/L
   140 mEq/L
   25.9 %
   15.9 K/uL
        [image002.jpg]
                             [**2136-2-20**]  06:53 PM
                             [**2136-2-20**]  10:16 PM
                             [**2136-2-20**]  10:29 PM
                             [**2136-2-21**]  04:18 AM
                             [**2136-2-21**]  04:47 AM
                             [**2136-2-21**]  10:11 AM
                             [**2136-2-21**]  02:18 PM
                             [**2136-2-21**]  05:33 PM
                             [**2136-2-22**]  02:56 AM
                             [**2136-2-22**]  03:01 AM
   WBC
   13.3
   12.1
   13.5
   12.2
   15.9
   Hct
   21.9
   22.7
   25.7
   23.7
   25.9
   Plt
   115
   130
   124
   108
   127
   Cr
   2.2
   3.8
   TCO2
   26
   33
   31
   33
   24
   Glucose
   83
   127
   Other labs: PT / PTT / INR:15.9/35.1/1.4, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:34/84, Alk Phos / T Bili:147/17.9,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:1.6 %, Eos:0.4
   %, Fibrinogen:308 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:2.7 g/dL,
   LDH:363 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Imaging: ECHO [**2-21**]:
   Very small pericardial effusion primarily located anteriorly and
   posterior to the atria (0.7 maximum dimension). Preserved left
   ventricular function.
   .
   CXR [**2-21**]:
   ETT, central venous line and Dobbhoff unchanged. Left-sided pleural
   effusion
   as before. No pneumothorax has developed. Increasing vascular pattern
   and diffuse  inaccessible lung field suggestive of pulmonary edema
   Assessment and Plan
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD
   admitted w/ MSSA sepsis, respiratory failure, decompensated liver
   disease and found to have empyema and MSSA bacteremia course now
   further complicated by cardiac tamponade.
   # Sepsis: Pt hypotensive to 80's. Concern for persistent infection vs
   new infectious source in setting of surgery.
   --cont broadened abx coverage with Vanc/Cefepime, d/c nafcillin, if no
   + cultures
   --stress dose steroids restarted at hydrocortisone 100mg IV q8hrs then
   wean to
   --f/u cxs, bronch w/ BAL and CMV VL, resend galactomannan / beta glucan
   --wean vasopressin as tolerated
   # Mental status: improved but agitated and in pain, on dilaudid drip,
   will attempt to wean to avoid accumulation given hepatic and renal
   impairment
   # S/P Pericardial Window:  ECHO [**2-21**] showed no re-accumulation of
   pericardial fluid. Scant [**Doctor Last Name **] drain outpt
   --discuss timing for removing tubes with thoracics
   --Q6hrs CBC and coags/fibrinogen, FFP for INR > 1.5
   # L Hemothorax: Improved.
   -per thoracics removal of tubes [**2-23**]
   # Pneumonia / MSSA bacteremia:
   --cont vanc/cefepime as above
   # Resp failure: Tolerated PSV overnight. Awake, alert, +gag
   --extubate today depending on when CT will be pulled
   --plan to remove 2L w/ HD, give albumin 25g x 1
   ## ESLD: TBili, LDH, ALt cont to trend up. Worsening liver failure
   likely related to persistent infections.
   -alert, answering questions appropriately
   -cont immunosupression with tacrolimus
   -cont lactulose and rifamixin
   -f/u liver recs
   #ESRD: continue HD without fluid removal
    # R HIP pain: history of avascular necrosis
   -- dilaudid gtt for pain control controlling pain
   - -plain film of hip looks stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2136-2-14**] 02:00 AM
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined the patient and concur with Dr [**First Name (STitle) 568**]
s note
   above.
   Mr [**Known lastname 8404**] has responded well to hydrocortisone in stress doses last
   night for developing hypotension.
   His antibiotics have been broadened for concerns of re-developing
   septic shock.
   He has increasing secretions and volume overload by exam / CXR. His
   echo did not show any concerning features for pericardial constraint or
   LV dysfunction. He will likely have chest tube and pericardial drains
   D/C
d in am [**2-23**] by thoracic staff. We will proceed to bronchoscopy
   today for help with secretion clearance  and attempt to remove at least
   2-3 L of fluid with HD. I suspect he will have a trial at extubation in
   am [**2-23**] if there are no other limiting issues and mental status remains
   good.
   CC time: 60 mins
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**], M.D.
   Pulmonary, Critical Care and Sleep Medicine
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2136-2-22**] 12:49 ------

2136-02-23 06:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered Mental Status, Bacteremia
   24 Hour Events:
 EKG - At [**2136-2-22**] 09:00 AM
 BRONCHOSCOPY - At [**2136-2-22**] 02:45 PM
   [**2136-2-22**]
   --patient awake and uncomfortable/agitated; started seroquel 75 mg po
   bid
   --bronchoscopy showed increased LLL sputum
   --tacro level remains low; per hepatology will check level in am and if
   remains low will dose [**Hospital1 **] tomorrow
   --maintained on pressors and AC vent setting for most of the day for HD
   and bronchoscopy; after bronch pressors were weaned off
   --discontinued nafcillin per ID recs as patient also now on cefepime
   and vanco
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2136-2-22**] 09:35 AM
   Vancomycin - [**2136-2-22**] 10:00 PM
   Cefipime - [**2136-2-23**] 05:56 AM
   Infusions:
   Hydromorphone (Dilaudid) - 0.5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2136-2-22**] 02:40 PM
   Fentanyl - [**2136-2-22**] 02:45 PM
   Hydromorphone (Dilaudid) - [**2136-2-22**] 05:31 PM
   Pantoprazole (Protonix) - [**2136-2-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-23**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.2
   HR: 107 (83 - 170) bpm
   BP: 117/80(94) {90/47(60) - 133/108(113)} mmHg
   RR: 13 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 59.4 kg
   Height: 64 Inch
    CVP: 24 (18 - 28)mmHg
   Total In:
                                                                  1,881 mL
                                                                    413 mL
   PO:
   TF:
   IVF:
                                                                    726 mL
                                                                     83 mL
   Blood products:
                                                                    425 mL
   Total out:
                                                                  2,465 mL
                                                                     38 mL
   Urine:
                                                                     25 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -584 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Face tent, Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 454 (454 - 787) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/52/125/28/3
   Ve: 7.3 L/min
   PaO2 / FiO2: 313
   Physical Examination
   Gen: intubated, sedated, opens eyes to verbal stimuli, icteric
   Lungs: rhonchorus breath sounds L > R
   Heart: s1/s2 present, diminished rub
   Abd: moderately distended abd
   Ext:no LE edema
   Labs / Radiology
   116 K/uL
   9.2 g/dL
   114 mg/dL
   3.8 mg/dL
   28 mEq/L
   3.3 mEq/L
   24 mg/dL
   102 mEq/L
   141 mEq/L
   25.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2136-2-21**]  04:47 AM
                             [**2136-2-21**]  10:11 AM
                             [**2136-2-21**]  02:18 PM
                             [**2136-2-21**]  05:33 PM
                             [**2136-2-22**]  02:56 AM
                             [**2136-2-22**]  03:01 AM
                             [**2136-2-22**]  06:20 PM
                             [**2136-2-22**]  07:38 PM
                             [**2136-2-23**]  05:00 AM
                             [**2136-2-23**]  05:15 AM
   WBC
   13.5
   12.2
   15.9
   13.9
   Hct
   25.7
   23.7
   25.9
   24.4
   25.9
   Plt
   124
   108
   127
   116
   Cr
   3.8
   TCO2
   31
   33
   24
   32
   31
   Glucose
   127
   114
   Other labs: PT / PTT / INR:14.8/35.1/1.3, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:46/97, Alk Phos / T Bili:149/15.7,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:1.6 %, Eos:0.4
   %, Fibrinogen:308 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL,
   LDH:394 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PERICARDIAL EFFUSION WITH TAMPONADE
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 PLEURAL EFFUSION, CHRONIC
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 COAGULOPATHY
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD
   admitted w/ MSSA sepsis, respiratory failure, decompensated liver
   disease and found to have empyema and MSSA bacteremia course now
   further complicated by cardiac tamponade.
   # Sepsis: Pt hypotensive to 80's. Concern for persistent infection vs
   new infectious source in setting of surgery.
   --cont broadened abx coverage with Vanc/Cefepime, d/c nafcillin, if no
   + cultures
   --stress dose steroids restarted at hydrocortisone 100mg IV q8hrs,
   likely wean after extubation
   --f/u cxs, CMV VL, f/u repeat galactomannan / beta glucan
   --wean vasopressin as tolerated
   # Mental status: improved but agitated and in pain, on dilaudid drip,
   will attempt to wean to avoid accumulation given hepatic and renal
   impairment, started on seroquel as patient agitated when awake
   # S/P Pericardial Window:  ECHO [**2-21**] showed no re-accumulation of
   pericardial fluid. Scant [**Doctor Last Name **] drain outpt
   --discuss timing for removing tubes with thoracics
   --Q6hrs CBC and coags/fibrinogen, FFP for INR > 1.5
   # L Hemothorax: Improved.
   -per thoracics removal of tubes [**2-23**]
   # Pneumonia / MSSA bacteremia:
   --cont vanc/cefepime as above
   # Resp failure: Tolerated PSV overnight. Awake, alert, +gag
   --extubate today depending on when CT will be pulled
   ## ESLD: TBili, LDH, ALt cont to trend up. Worsening liver failure
   likely related to persistent infections.
   -alert, answering questions appropriately
   -cont immunosupression with tacrolimus
   -cont lactulose and rifamixin
   -f/u liver recs
   #ESRD: continue HD with fluid removal to aid respiratory status
    # R HIP pain: history of avascular necrosis
   -- dilaudid gtt for pain control controlling pain
   - -plain film of hip looks stable
   ICU Care
   Nutrition: Restart tube feeds after IR placement of dobhoff
   Glycemic Control:
   Lines:
   Arterial Line - [**2136-2-14**] 02:00 AM
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  ppi
   VAP:  mouth washes, HOB > 30
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2136-02-23 09:24:00 Physician Attending Progress Note
Chief Complaint:  LLL pneumonia, respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: s/p liver transplant, biliary atresia
   24 Hour Events:
   seroquel started for aggitation
   bronchoscopy with minimal secretions
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2136-2-22**] 09:35 AM
   Vancomycin - [**2136-2-22**] 10:00 PM
   Cefipime - [**2136-2-23**] 05:56 AM
   Infusions:
   Hydromorphone (Dilaudid) - 0.25 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2136-2-22**] 02:40 PM
   Fentanyl - [**2136-2-22**] 02:45 PM
   Hydromorphone (Dilaudid) - [**2136-2-22**] 05:31 PM
   Pantoprazole (Protonix) - [**2136-2-22**] 08:00 PM
   Other medications:
   rifaxamine
   lido patch
   atrovent/albuterol
   lactulose qid
   protonix
   reglan
   chlorhex
   keppra
   dilaudid gtt
   tacro
   hydrocort 100bid
   seroquel
   RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-23**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 105 (83 - 170) bpm
   BP: 92/72(80) {90/47(60) - 133/108(113)} mmHg
   RR: 12 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 59.4 kg
   Height: 64 Inch
   CVP: 24 (18 - 28)mmHg
   Total In:
                                                                  1,881 mL
                                                                    427 mL
   PO:
   TF:
   IVF:
                                                                    726 mL
                                                                     97 mL
   Blood products:
                                                                    425 mL
   Total out:
                                                                  2,465 mL
                                                                    743 mL
   Urine:
                                                                     25 mL
                                                                     13 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -584 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 578 (454 - 578) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 35
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/52/125/28/3
   Ve: 6.8 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: ichterus
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Rhonchorous: anteriorly on L)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Cool
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful, Tone:
   Decreased
   Labs / Radiology
   9.2 g/dL
   116 K/uL
   114 mg/dL
   2.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   24 mg/dL
   102 mEq/L
   141 mEq/L
   25.9 %
   13.9 K/uL
        [image002.jpg]
                             [**2136-2-21**]  04:47 AM
                             [**2136-2-21**]  10:11 AM
                             [**2136-2-21**]  02:18 PM
                             [**2136-2-21**]  05:33 PM
                             [**2136-2-22**]  02:56 AM
                             [**2136-2-22**]  03:01 AM
                             [**2136-2-22**]  06:20 PM
                             [**2136-2-22**]  07:38 PM
                             [**2136-2-23**]  05:00 AM
                             [**2136-2-23**]  05:15 AM
   WBC
   13.5
   12.2
   15.9
   13.9
   Hct
   25.7
   23.7
   25.9
   24.4
   25.9
   Plt
   124
   108
   127
   116
   Cr
   3.8
   2.7
   TCO2
   31
   33
   24
   32
   31
   Glucose
   127
   114
   Other labs: PT / PTT / INR:14.8/35.1/1.3, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:46/97, Alk Phos / T Bili:149/15.7,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:1.6 %, Eos:0.4
   %, Fibrinogen:308 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL,
   LDH:394 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   31 yo M ESLD/Renal failure, here w MSSA pna/bacteremia
   1. HoTN: improving with increased steroids and broad spectrum abx
    - cont monitor culture data
    - cont vanc/cef x 48 hours if cx data remains negative
    - taper steroids to 50mg q 8, will likely require support for long
   period of time
   2. tamponade s/p pericardial window:
    - pericardial drain to be discontinued today
   3. Empyema:
    - Chest Tube to be d/c today
   4. Mental status: encephalopathy, uremia, pain medications, pain
    - will cont dilaudid 0.25 and taper off once ct off
    - cont seroquel 50 [**Hospital1 **]
    - decrease lactulose tid given increased diarrhea
   5. Renal failure:
    - possible UF today to assist with extubation
   6. R hip:
    - stable
   7. FEN:
    - tube feeds on hold for extubation
    - will need IR placement of doboff after extubation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2136-2-14**] 02:00 AM
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2136-02-24 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CHEST TUBE REMOVED - At [**2136-2-23**] 11:08 AM
 INVASIVE VENTILATION - STOP [**2136-2-23**] 04:03 PM
 ARTERIAL LINE - STOP [**2136-2-23**] 08:00 PM
   -Given positive strongyloides gave 1 dose of ivermectin and sent Stool
   O&P
   -pericardial drain and chest tube removed
   -decreased lactulose to 30mL po tid
   -sedation weaned and pt extubated
   -tacro level 2.1, given another dose 4/1 at 6 p.m. 0.5mg
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2136-2-22**] 09:35 AM
   Vancomycin - [**2136-2-22**] 10:00 PM
   Cefipime - [**2136-2-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-23**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2136-2-24**] 03:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-24**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 117 (98 - 117) bpm
   BP: 155/75(92) {130/73(91) - 165/95(105)} mmHg
   RR: 22 (11 - 26) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 59.4 kg
   Height: 64 Inch
             Total In:
                                                                    998 mL
                                                                    238 mL
   PO:
             TF:
   IVF:
                                                                    183 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  3,968 mL
                                                                      0 mL
   Urine:
                                                                     28 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,970 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 581 (578 - 581) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 90%
   ABG: ///28/
   Ve: 5.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   79 K/uL
   13.9 g/dL
   75 mg/dL
   3.4 mg/dL
   28 mEq/L
   3.2 mEq/L
   28 mg/dL
   101 mEq/L
   141 mEq/L
   10.7 %
   5.9 K/uL
        [image002.jpg]
                             [**2136-2-21**]  02:18 PM
                             [**2136-2-21**]  05:33 PM
                             [**2136-2-22**]  02:56 AM
                             [**2136-2-22**]  03:01 AM
                             [**2136-2-22**]  06:20 PM
                             [**2136-2-22**]  07:38 PM
                             [**2136-2-23**]  05:00 AM
                             [**2136-2-23**]  05:15 AM
                             [**2136-2-23**]  04:42 PM
                             [**2136-2-24**]  05:31 AM
   WBC
   12.2
   15.9
   13.9
   12.0
   5.9
   Hct
   23.7
   25.9
   24.4
   25.9
   25.7
   10.7
   Plt
   108
   127
   116
   115
   79
   Cr
   3.8
   2.7
   3.4
   TCO2
   33
   24
   32
   31
   Glucose
   127
   114
   75
   Other labs: PT / PTT / INR:16.4/35.2/1.5, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:47/94, Alk Phos / T Bili:151/13.9,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:1.6 %, Eos:0.4
   %, Fibrinogen:294 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL,
   LDH:394 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 PERICARDIAL EFFUSION WITH TAMPONADE
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 LIVER FUNCTION ABNORMALITIES
 PLEURAL EFFUSION, CHRONIC
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 COAGULOPATHY
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD
   admitted w/ MSSA sepsis, respiratory failure, decompensated liver
   disease and found to have empyema and MSSA bacteremia course now
   further complicated by cardiac tamponade.
   # Sepsis: No longer hypotensive or requiring pressors.
   --cont broadened abx coverage with Vanc/Cefepime. If cxs neg x 48 hrs
   would restart nafcillin
   -- DC
d nafcillin
   --Decrease hydrocortisone from 100 to 50 Q12
   --f/u cxs, CMV VL
   # Pneumonia / MSSA bacteremia:
   --cont vanc/cefepime as above
   # Mental status: remains intermittently agitated but awake
   -begin seroquel 25 Q8H
   # S/P Pericardial Window:  Scant [**Doctor Last Name **] drain outpt
   --thoracics planning on removing drain today
   # L Hemothorax: stable
   -per thoracics removal of tubes today
   # Resp failure: Tolerated PSV overnight. Awake, alert, +gag
   --fewer secretions
   --extubate today depending on when CT will be pulled
   ## ESLD: TBili, LDH, ALt cont to trend up. Worsening liver failure
   likely related to persistent infections.
   -cont immunosupression with tacrolimus
   -cont lactulose but reduce to TID
   -cont rifaximin
   -f/u liver recs
   #ESRD: HD today with UF
    # R HIP pain: history of avascular necrosis
   -- dilaudid gtt for pain control controlling pain
   - -plain film of hip looks stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2136-02-24 11:28:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: MSSA sepsis, pleural effusion
   24 Hour Events:
   strongyloides ab positive, given ivermectin
   chest tube and pericardial drain d/c
   extubated
   doboff placed by IR this am
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2136-2-22**] 09:35 AM
   Vancomycin - [**2136-2-22**] 10:00 PM
   Cefipime - [**2136-2-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-2-23**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2136-2-24**] 03:19 AM
   Other medications:
   rifaxamine
   pantoprazole
   reglan 5 q6
   keppra
   vanc 1 g
   cefepime
   riss
   lactulose
   hydrocort 50 q 8
   seroquel 50 [**Hospital1 **]
   atrovent
   tacro 0.5 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-24**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36
C (96.8
   HR: 110 (98 - 117) bpm
   BP: 143/91(103) {130/73(91) - 165/95(105)} mmHg
   RR: 23 (11 - 26) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 65 kg (admission): 59.4 kg
   Height: 64 Inch
             Total In:
                                                                    998 mL
                                                                    345 mL
   PO:
             TF:
   IVF:
                                                                    183 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  3,968 mL
                                                                     30 mL
   Urine:
                                                                     28 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,970 mL
                                                                    315 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 581 (581 - 581) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 97%
   ABG: ///27/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: Thin, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), S3, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): person, "[**2127**]", Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   8.9 g/dL
   101 K/uL
   79 mg/dL
   3.2 mg/dL
   27 mEq/L
   3.1 mEq/L
   30 mg/dL
   103 mEq/L
   144 mEq/L
   26.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2136-2-21**]  05:33 PM
                             [**2136-2-22**]  02:56 AM
                             [**2136-2-22**]  03:01 AM
                             [**2136-2-22**]  06:20 PM
                             [**2136-2-22**]  07:38 PM
                             [**2136-2-23**]  05:00 AM
                             [**2136-2-23**]  05:15 AM
                             [**2136-2-23**]  04:42 PM
                             [**2136-2-24**]  05:31 AM
                             [**2136-2-24**]  09:05 AM
   WBC
   12.2
   15.9
   13.9
   12.0
   5.9
   9.5
   Hct
   23.7
   25.9
   24.4
   25.9
   25.7
   10.7
   26.6
   Plt
   108
   127
   116
   115
   79
   101
   Cr
   3.8
   2.7
   3.4
   3.2
   TCO2
   24
   32
   31
   Glucose
   127
   114
   75
   79
   Other labs: PT / PTT / INR:16.4/35.2/1.5, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:50/94, Alk Phos / T Bili:151/13.7,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:1.6 %, Eos:0.4
   %, Fibrinogen:294 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL,
   LDH:370 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   31 yo M with ESLD, renal failure, here with MSSA pna, c/b empyema and
   pericardial effusion, now s/p removal of tubes
   1. Infection:
    - culture data ngtd
    - currently on vanc/zosyn after brief period of HoTN, now resolved
   with no further positive culture data
    - will t/b with ID re peeling back abx to nafcillin only
    - currently scheduled for 6 week course abx
   2. Adrenal insufficiency:
    - will decrease hydrocort to 50mg [**Hospital1 **]
   3. Mental status:
    - improving, will d/c seroquel
    - cont lactulose 30 tid, will decrease if continued diarrhea
   4. L hemothorax: improving on films, chest CT next week to assess
   pleural effusion
   5. ESLD: improving lfts, bilirubin, INR
    - cont rifaximin, lactulose,
   - cont tacro 0.5 [**Hospital1 **] and f.u levels
   6. ESRF on HD: + anasarca and HTN, with pulmonary edema on film
    - HD today with -3L as tolerated
   7. R Hip pain: improved
   9. FEN: doboff placed, start tube feeds
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2136-02-25 06:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Last Name (un) **]-intestinal tube placed by IR
   Pt with abd pain on exam. Abd U/S showed no ascites.
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Nafcillin - [**2136-2-22**] 09:35 AM
   Vancomycin - [**2136-2-22**] 10:00 PM
   Cefipime - [**2136-2-24**] 06:00 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2136-2-24**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-2-25**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 103 (95 - 117) bpm
   BP: 132/88(98) {119/71(83) - 155/94(107)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 61 kg (admission): 59.4 kg
   Height: 64 Inch
             Total In:
                                                                    699 mL
                                                                    258 mL
   PO:
             TF:
                                                                    169 mL
                                                                    227 mL
   IVF:
                                                                    220 mL
                                                                     31 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
   Balance:
                                                                 -3,931 mL
                                                                    258 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   Neuro: Aox3
   Lungs: Diminished BS on L
   Heart: tachy, s1/s2present, no murmurs
   Abd: +BS, soft, non-tender, mildly distended
   Ext: no LE edema
   Labs / Radiology
   101 K/uL
   8.9 g/dL
   79 mg/dL
   3.6 mg/dL
   27 mEq/L
   3.1 mEq/L
   13 mg/dL
   103 mEq/L
   144 mEq/L
   26.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2136-2-22**]  02:56 AM
                             [**2136-2-22**]  03:01 AM
                             [**2136-2-22**]  06:20 PM
                             [**2136-2-22**]  07:38 PM
                             [**2136-2-23**]  05:00 AM
                             [**2136-2-23**]  05:15 AM
                             [**2136-2-23**]  04:42 PM
                             [**2136-2-24**]  05:31 AM
                             [**2136-2-24**]  09:05 AM
                             [**2136-2-24**]  02:13 PM
   WBC
   15.9
   13.9
   12.0
   5.9
   9.5
   Hct
   25.9
   24.4
   25.9
   25.7
   40.7
   26.6
   Plt
   127
   116
   115
   79
   101
   Cr
   3.8
   2.7
   3.4
   3.2
   3.6
   TCO2
   24
   32
   31
   Glucose
   127
   114
   75
   79
   Other labs: PT / PTT / INR:15.7/34.1/1.4, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:50/94, Alk Phos / T Bili:151/13.7,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:1.6 %, Eos:0.4
   %, Fibrinogen:294 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL,
   LDH:370 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: CMV viral load undetectable
   Imaging: Abd U/S: [**2-24**]--no ascites
   Assessment and Plan
   31 yo M w/ biliary atresia s/p liver transplant, cirrhosis, ESRD
   admitted w/ MSSA sepsis, respiratory failure, decompensated liver
   disease and found to have empyema and MSSA bacteremia course now
   further complicated by cardiac tamponade.
   .
    # Sepsis/ Pneumonia / MSSA bacteremia: Remains hemodynamically stable.
   No new positive cx results. Afebrile with normal WBC ct. Clearly these
   are indicators of improving ifection.
   -wean stress dose steroids to 50mg Q12
   -cont 7 days of VAP treatment with Cefepime and Vanco
   -f/u cxs
   .
   # Mental status: Fully oriented today.
   --decrease to lactulose 30mL [**Hospital1 **] given  > 1 L stool / day
   --cont rifaximin
   .
   # Abd Pain:No abd pain on exam today. Possible pain yesterday due to
   gas.
   --Does not need ABD CT
   .
    # S/P Pericardial Window: remains hemodynamically stable
   .
   # L Hemothorax: CXR from today difficult to interpret. Repeat tomorrow.
   .
    # ESLD: TBili improving which likely reflects infection improving
   --[**Hospital1 **] tacrolimus, level in a.m.
   --lactulose, rifaximin
   --f/u hepatology and transplant recs
   .
   #ESRD: HD as per renal team. s/p 3 L via UF yesterday. Next HD on
   Monday.
   .
    # Nutrition: cont tube feeds
   --order speech and swallow
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2136-2-24**] 04:02 PM 45 mL/hour
   Glycemic Control: ISS
   Lines:
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  patient and father, [**Name (NI) 8405**] [**Name (NI) 8404**]
   Code status: Full code
   Disposition: Call him out to [**Wardname **]

2136-02-25 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   HD iwth -3L, tolerated well
   Allergies:
   Ibuprofen
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-2-22**] 10:00 PM
   Cefipime - [**2136-2-25**] 06:28 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2136-2-24**] 11:00 PM
   Other medications:
   rifaximine
   reglan 5 q 6
   keppra
   vanc 1g with hd
   cefepime 1 q 24
   riss
   lactulose 30 [**Hospital1 **]
   hydrocort 50  8
   atrovent
   tacro 0.5 [**Hospital1 **]
   lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   c/o discomfort in his hips and thighs (which is chronic). Denied abd
   pain, resp discomfort, chest pain.
   Flowsheet Data as of  [**2136-2-25**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**37**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 99 (95 - 112) bpm
   BP: 137/83(97) {119/71(83) - 150/94(107)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 61 kg (admission): 59.4 kg
   Height: 64 Inch
             Total In:
                                                                    699 mL
                                                                    496 mL
   PO:
             TF:
                                                                    169 mL
                                                                    331 mL
   IVF:
                                                                    220 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  4,630 mL
                                                                      0 mL
   Urine:
                                                                     30 mL
   NG:
   Stool:
                                                                  1,600 mL
   Drains:
   Balance:
                                                                 -3,931 mL
                                                                    496 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Thin, No(t) Anxious
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Decreased
   Labs / Radiology
   9.2 g/dL
   117 K/uL
   199 mg/dL
   2.4 mg/dL
   28 mEq/L
   2.9 mEq/L
   22 mg/dL
   105 mEq/L
   145 mEq/L
   27.0 %
   7.7 K/uL
        [image002.jpg]
                             [**2136-2-22**]  03:01 AM
                             [**2136-2-22**]  06:20 PM
                             [**2136-2-22**]  07:38 PM
                             [**2136-2-23**]  05:00 AM
                             [**2136-2-23**]  05:15 AM
                             [**2136-2-23**]  04:42 PM
                             [**2136-2-24**]  05:31 AM
                             [**2136-2-24**]  09:05 AM
                             [**2136-2-24**]  02:13 PM
                             [**2136-2-25**]  06:04 AM
   WBC
   13.9
   12.0
   5.9
   9.5
   7.7
   Hct
   24.4
   25.9
   25.7
   40.7
   26.6
   27.0
   Plt
   116
   115
   79
   101
   117
   Cr
   2.7
   3.4
   3.2
   3.6
   2.4
   TCO2
   24
   32
   31
   Glucose
   114
   75
   79
   199
   Other labs: PT / PTT / INR:15.3/29.9/1.3, CK / CKMB /
   Troponin-T:34//0.06, ALT / AST:53/105, Alk Phos / T Bili:165/14.9,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:4.0 %, Mono:1.6 %, Eos:0.4
   %, Fibrinogen:294 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL,
   LDH:468 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   31 yo M esld, renal failure, awaiting transplant, admitted with MSSA
   pneumonia
   1. Sepsis/pneumonia/infection: mssa pneumonia + possible VAP
    - will cont VAP treatment x 7 with cefepime and vanc and then restart
   nafcillin
    - f/u cxr [**2-26**]
   2. abdominal distension: no pain, + bowel sounds, moving bowels
    - will hold off on abdominal CT today
    - likely [**12-27**] lactulose and bowel gas, will decrease lactulose
   3. Mental status: much improved now extubated, getting HD, tolerating
   lactulose
    - will decrease lactulose to [**Hospital1 **] dosing
    - cont rifaximin
    - cont tube feeds
   4. Pericardial window: stable
   5. ESLD:
    - cont [**Hospital1 **] tacro dosing goal [**2-28**]
    - rifaximin, lactulose
    - following LFTs
   6. ESRD: HD monday
   7. FEN: SLP eval
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2136-2-16**] 11:27 AM
   Dialysis Catheter - [**2136-2-16**] 11:28 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor